* Simplified 3-Phase BLDC Inverter Simulation
* Objective: Validate basic switching, current ripple, thermal

.title Simplified 3-Phase BLDC Inverter - 50A/400V

* ============= POWER SUPPLY =============
Vdc vdc gnd DC 400

* DC link capacitor
Cbulk vdc gnd 470u IC=400

* ============= PWM CONTROL SIGNALS (20 kHz) =============
* Phase U (0°)
Vpwm_u gate_u gnd PULSE(0 15 0 100n 100n 25u 50u)

* Phase V (120° offset = 16.67µs)
Vpwm_v gate_v gnd PULSE(0 15 16.67u 100n 100n 25u 50u)

* Phase W (240° offset = 33.33µs)
Vpwm_w gate_w gnd PULSE(0 15 33.33u 100n 100n 25u 50u)

* ============= GATE DRIVER (DRV8302 simulation) =============
* High-side gates (pass through PWM)
Bgate_hs_u gate_hs_u gnd V=V(gate_u)>7.5 ? 15 : 0
Bgate_hs_v gate_hs_v gnd V=V(gate_v)>7.5 ? 15 : 0
Bgate_hs_w gate_hs_w gnd V=V(gate_w)>7.5 ? 15 : 0

* Low-side gates (inverted PWM)
Bgate_ls_u gate_ls_u gnd V=V(gate_u)<7.5 ? 15 : 0
Bgate_ls_v gate_ls_v gnd V=V(gate_v)<7.5 ? 15 : 0
Bgate_ls_w gate_ls_w gnd V=V(gate_w)<7.5 ? 15 : 0

* ============= MOSFET BRIDGE =============
* High-side switches (VDS=0 to 400V)
Shs_u vdc phase_u gate_hs_u gnd Sw_mosfet
Shs_v vdc phase_v gate_hs_v gnd Sw_mosfet
Shs_w vdc phase_w gate_hs_w gnd Sw_mosfet

* Low-side switches (VDS=0 to 400V)
Sls_u phase_u gnd gate_ls_u gnd Sw_mosfet
Sls_v phase_v gnd gate_ls_v gnd Sw_mosfet
Sls_w phase_w gnd gate_ls_w gnd Sw_mosfet

* MOSFET model (on-resistance 0.01 Ohm for 50A capability)
.model Sw_mosfet SW(VT=5 VH=2 RON=0.01 ROFF=1e9)

* ============= MOTOR PHASE LOADS =============
* Simplified: RL load per phase (inductor + resistor)
* L = 100µH (motor phase inductance)
* R = 0.1 Ohm (winding resistance)

* Phase U
Lphase_u phase_u load_u 100u IC=0
Rphase_u load_u gnd 0.1

* Phase V
Lphase_v phase_v load_v 100u IC=0
Rphase_v load_v gnd 0.1

* Phase W
Lphase_w phase_w load_w 100u IC=0
Rphase_w load_w gnd 0.1

* ============= CURRENT SENSING (Shunt 0.001 Ohm = 1mV per 1A) =============
* Inserted in series with high-side output
Rshunt_u phase_u sense_u 0.001
Rshunt_v phase_v sense_v 0.001
Rshunt_w phase_w sense_w 0.001

* ============= FILTERING (Ferrite beads) =============
Cfilter_u sense_u gnd 10n
Cfilter_v sense_v gnd 10n
Cfilter_w sense_w gnd 10n

* ============= MEASUREMENTS =============
* Peak currents (via shunt voltage)
.measure tran I_peak_u_mv MAX V(sense_u)
.measure tran I_peak_v_mv MAX V(sense_v)
.measure tran I_peak_w_mv MAX V(sense_w)

* DC link ripple
.measure tran Vdc_ripple PP V(vdc)
.measure tran Vdc_min MIN V(vdc)
.measure tran Vdc_max MAX V(vdc)

* Phase voltages
.measure tran Vphase_u_peak MAX V(phase_u)
.measure tran Vphase_u_min MIN V(phase_u)

* Power consumption (from DC source)
.measure tran Power_avg AVG V(vdc)*I(Vdc)
.measure tran Power_peak MAX ABS(V(vdc)*I(Vdc))

* ============= TRANSIENT SIMULATION =============
* Run 2.5ms (125 PWM cycles @ 20kHz)
.tran 0.1u 2.5m 1u

* ============= OUTPUT OPTIONS =============
.print tran V(phase_u) V(phase_v) V(phase_w) V(vdc) I(Vdc)
.plot tran V(phase_u) V(phase_v) V(phase_w)

* ============= END =============
.end

